************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_rv32Lib
* Top Cell Name: mux5
* View Name:     schematic
* Netlisted on:  Mar 21 22:52:29 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vdd!
*+    vss!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux5
* View Name:    schematic
************************************************************************

.SUBCKT mux5 A B C D E S0 S1 S2 Z
*.PININFO A:I B:I C:I D:I E:I S0:I S1:I S2:I Z:O
XI9 net5 S2 S2b Z / trans
XI8 net24 S2b S2 Z / trans
XI13 net6 S1b S1 net5 / trans
XI6 net12 S1 S1b net24 / trans
XI5 net4 S1b S1 net24 / trans
XI4 E S0b S0 net6 / trans
XI3 D S0 S0b net12 / trans
XI2 C S0b S0 net12 / trans
XI1 B S0 S0b net4 / trans
XI0 A S0b S0 net4 / trans
XI12 S2 S2b / inv
XI11 S1 S1b / inv
XI10 S0 S0b / inv
.ENDS

