************************************************************************
* auCdl Netlist:
* 
* Library Name:  stdcell_425Lib
* Top Cell Name: oai21
* View Name:     schematic
* Netlisted on:  Feb 27 10:13:05 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_425Lib
* Cell Name:    oai21
* View Name:    schematic
************************************************************************

.SUBCKT oai21 A B C Z
*.PININFO A:I B:I C:I Z:O
MM2 Z C vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z B net4 vdd! PMOS_VTL W=360.0n L=50n m=1
MM0 net4 A vdd! vdd! PMOS_VTL W=360.0n L=50n m=1
MM5 net13 C vss! vss! NMOS_VTL W=180.0n L=50n m=1
MM4 Z B net13 vss! NMOS_VTL W=180.0n L=50n m=1
MM3 Z A net13 vss! NMOS_VTL W=180.0n L=50n m=1
.ENDS

